US06589984B1
K2CO3 (138 mg) was added to a solution of 5-methoxysalicyl aldehyde (152 mg) and 6-bromomethyl-3,5-dimethyl-4-methoxymethoxy-2H-pyran-2-one (277 mg) in DMF (5 ml), and the mixture was stirred at room temperature for 16 hours. A 6 N hydrochloric acid aqueous solution was slowly added to the reaction solution, and after stirring for one hour, extraction was performed with AcOEt and the organic layer was dried with MgSO4 and then filtered and concentrated. The residue was purified by silica gel column chromatography (n-hexane/AcOEt=1/1) to obtain 3,5-dimethyl-4-hydroxy-6-(5-methoxybenzofuran-2-yl)-2H-pyran-2-one.

reactant | K2CO3 | 138 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 6-bromomethyl-3,5-dimethyl-4-methoxymethoxy-2H-pyran-2-one | 277 mg | BrCC1=C(C(=C(C(O1)=O)C)OCOC)C | C10H13BrO4
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3,5-dimethyl-4-hydroxy-6-(5-methoxybenzofuran-2-yl)-2H-pyran-2-one | CC=1C(OC(=C(C1O)C)C=1OC2=C(C1)C=C(C=C2)OC)=O | C16H14O5
